Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
leg swelling
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/ CP, intellectual disability due to a developmental 
disorder, HTN, hypothyroidism who presents as a transfer from 
___ with increased LLE swelling X 1 week. Patient was 
admitted to ___ in early ___ for LLE DVT. He was treated 
with Heparin and discharged on Xarelto. Per patient and group 
home, edema initially improved but then worsened again X 1 week 
and now extends to mid-thigh. He was then taken back to ___ 
where repeat U/S showed no substantial increase in extent of 
clot, though clinical exam slightly worse. He denies fever, 
chills, chest pain, SOB, abdominal pain, N/V. He sometimes feels 
tingling in his affected leg.  
 In the ED, initial vitals: 99.0 92 139/87 14 100% RA  
 
 - Exam notable for: not documented in ED chart  
 - Labs notable for: CBC wnl, INR 1.5 (on xarelto), Chem 7 wnl.  

 - Imaging notable for: OSH U/S showed no substantial increase 
in extent of clot  
 - Patient given: heparin gtt  
 - Seen by vascular surgery who felt that he should start 
heparin gtt, get CT venography, and be admitted to medicine.  
 - Vitals prior to transfer: 98.8 89 122/89 14 98% RA  
 On arrival to the floor, pt reports only complaining of LLE 
swelling, no pain, no difficulty breathing, chest pain, f/c, 
headache.  
 REVIEW OF SYSTEMS: Per HPI  

 
Past Medical History:
 -Cerebral palsy  
 -Recent PE/DVT on xarelto  
 -Hypothyroidism  
 -OA 
 
Social History:
___
Family History:
not relevant 
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 Vitals: 98.8 89 122/89 14 98%  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, non pitting edema throughout L leg  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact. 

 DISCHARGE PHYSICAL EXAM:  
98.2 100/60 82 16 95%RA
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, decreased left LL edema 
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  
 
Pertinent Results:
ADMISSION LABS:

___ 01:00AM   ___ PTT-37.3* ___
___ 01:00AM   PLT COUNT-323
___ 01:00AM   NEUTS-73.5* LYMPHS-14.3* MONOS-5.3 EOS-5.8 
BASOS-0.4 IM ___ AbsNeut-6.71* AbsLymp-1.30 AbsMono-0.48 
AbsEos-0.53 AbsBaso-0.04
___ 01:00AM   WBC-9.1 RBC-4.76 HGB-13.1* HCT-40.9 MCV-86 
MCH-27.5 MCHC-32.0 RDW-13.3 RDWSD-41.3
___ 01:00AM   GLUCOSE-94 UREA N-9 CREAT-0.5 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 09:49AM   ___ PTT-78.5* ___
___ 09:49AM   PLT COUNT-313
___ 09:49AM   WBC-8.0 RBC-4.85 HGB-13.5* HCT-42.0 MCV-87 
MCH-27.8 MCHC-32.1 RDW-13.7 RDWSD-42.5
___ 09:49AM   CALCIUM-9.2 PHOSPHATE-3.8 MAGNESIUM-2.3
___ 09:49AM   ALT(SGPT)-18 AST(SGOT)-19 ALK PHOS-75 TOT 
BILI-0.4
___ 09:49AM   GLUCOSE-110* UREA N-9 CREAT-0.6 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-26 ANION GAP-17
___ 07:30PM   PTT-74.9*

IMAGING:
 ___ (OSH):  
 FINDINGS: There is persistent occlusive hypoechoic thrombus  
 involving the left common femoral, femoral, and popliteal  
 veins. The left calf veins are early visualize, due to 
overlying edema. Power Doppler images suggests the presence of 
the posterior tibial veins.  
 
 No evidence of medial popliteal fossa (___) cyst.  
 
 IMPRESSION: Persistent extensive acute deep venous  
 thrombosis involving the left common femoral, femoral, and 
popliteal veins. The calf veins are not well visualized, due to 
patient positioning and overlying edema. 

 CT LOWER EXT W/C LEFT ___
1.  Diminutive left common iliac vein may be congenital or 
reflect changes 
after prior thrombosis.  There is occlusive thrombus with in the 
remainder of the left common iliac vein distal to the narrowing 
and extending into the external iliac, common femoral, femoral 
and popliteal vein on the left. 
2.  Small nonocclusive thrombus within 1 of the posterior tibial 
veins on the left 
3.  The IVC, deep veins in the right leg and anterior tibial 
veins and 
peroneal veins on the left are patent. 
4.  Left inguinal hernia containing fat 
5.  Liver cyst 

DISCHARGE LABS:

___ 05:40AM BLOOD WBC-8.4 RBC-4.58* Hgb-12.7* Hct-39.6* 
MCV-87 MCH-27.7 MCHC-32.1 RDW-13.6 RDWSD-42.6 Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-97 UreaN-13 Creat-0.6 Na-138 
K-4.1 Cl-99 HCO3-26 AnGap-17
___ 05:40AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.___ w/ CP, intellectual disability due to a developmental 
disorder, HTN, hypothyroidism who presents as a transfer from 
___ with increased LLE swelling X 1 week. 

# leg swelling- Patient was admitted to ___ in early ___ 
and diagnosed with LLE DVT. He was treated with Heparin and 
discharged on Xarelto, now presenting with worsening swelling. 
On imaging, he was found to have persistent DVT, and was 
evaluated by vascular surgery who recommended continued medical 
therapy. He was initially treated with heparin, then 
transitioned back to Xarelto to complete his loading dose by 
___, after which he will transition to 20mg daily. Heme/onc 
was curbsided. and agreed that non-resolution of clot 2 weeks 
after diagnosis does not constitute treatment failure so we 
should continue his Xarelto.

CHRONIC ISSUES: 
 #HTN: Continued lisinopril  
 #Hypothyroidism: Continue levothyroxine  
 #Chronic pain/ contracture: Continue cyclobenzaprine and 
lidocaine patch  

TRANSITIONAL ISSUES:
======================
[ ] continue to take 15mg twice a day of rivaroxaban until 
___, then take 20mg daily from ___ onwards
[ ] please evaluate the duration of anti-coagulation, pt may 
benefit from life-long anticoagulation in the setting of chronic 
risk factors
[ ] continue compression stockings daily for at least 2 weeks to 
aid with post-thrombotic syndrome 
[ ] lisinopril dose was reduced by half on discharge to 5mg 
daily since pt had some low systolics in ___ this admission, 
reassess BP outpatient
[ ] please f/u on liver cyst 
 # Code status: Full Code 
 # CONTACT: HCP, sister ___: ___ or ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO BID 
2. Lisinopril 10 mg PO DAILY 
3. Cyclobenzaprine 5 mg PO TID:PRN pain 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. Vitamin D 3000 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Cyclobenzaprine 5 mg PO TID:PRN pain  
3.  Levothyroxine Sodium 25 mcg PO DAILY  
4.  Lidocaine 5% Patch 1 PTCH TD QAM  
5.  Multivitamins 1 TAB PO DAILY  
6.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
7.  Vitamin D 3000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
DVT
Secondary:
cerebral palsy
intellectual disability
 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
 
Discharge Instructions:
Dear Mr ___, 

You were admitted to ___ after you were found 
to have post-thrombotic syndrome, which is the swelling that has 
developed on your leg with the clot. The vascular surgeons 
decided there was no surgical intervention since your clot is 
similarly sized to what it was when you were first diagnosed. 
You should take 15mg Xarelto twice a day until ___, then 
transition to 20mg daily. Additionally you should wear a 
compression stocking on your left leg to reduce the swelling. 
Wear it as much of the day as possible for the next 2 weeks. 

It was a pleasure taking care of you!

Your ___ Team

 
Followup Instructions:
___